US07964724B2
tert-Butyl-1-piperazinecarboxylate (1.00 g, 5.37 mmol) and pyridine (0.868 mL, 10.7 mmol) were combined in methylene chloride (27 mL) and cooled to 0° C. Trifluoroacetic anhydride (0.910 mL, 6.44 mmol) was then added and the reaction mixture was allowed to warm to ambient temperature and stirred 1 h. The reaction mixture was then diluted with ethyl acetate (150 mL) and washed with aqueous potassium hydrogen sulfate (2×50 mL), saturated aqueous sodium bicarbonate (50 mL) and brine (50 mL), then dried over sodium sulfate and evaporated to yield tert-butyl 4-(2,2,2-trifluoroacetyl)piperazine-1-carboxylate (1.50 g, 99%) as an oil which solidified over time.

reactant | tert-Butyl-1-piperazinecarboxylate | 5.37 mmol, 1.00 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | pyridine | 10.7 mmol, 0.868 mL | N1=CC=CC=C1 | C5H5N
reactant | Trifluoroacetic anhydride | 6.44 mmol, 0.910 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 27 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-(2,2,2-trifluoroacetyl)piperazine-1-carboxylate | 1.50 g, 99% | FC(C(=O)N1CCN(CC1)C(=O)OC(C)(C)C)(F)F | C11H17F3N2O3
